US06953787B2
N-Trifluoroacetyl-8-bromo-1-cyclopropyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-1-cyclopropyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine (0.025 g, 0.08 mmol) in acetonitrile (1 mL) was treated with N-bromosuccinimide (0.032 g, 0.18 mmol) and stirred for 2 hrs. at 50 C. The product mixture was concentrated and then purified by flash chromatography (10% EtOAc in hexanes, silica) resulting in 0.014 g of a white solid. MS calculated for C15H15BrF3NO2+H: 378, observed: 378.

reactant | N-trifluoroacetyl-1-cyclopropyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.08 mmol, 0.025 g | FC(C(=O)N1CCC2=C(C(C1)C1CC1)C=CC(=C2)OC)(F)F | C16H18F3NO2
reactant | N-bromosuccinimide | 0.18 mmol, 0.032 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | N-Trifluoroacetyl-8-bromo-1-cyclopropyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.014 g | FC(C(=O)N1CCC2=C(C(C1)C1CC1)C=C(C(=C2)OC)Br)(F)F | C16H17BrF3NO2
